US08445509B2
Production of 1-(2-bromo-4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid
To a mixture of 1-(2-bromo-4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile, 1-(2-bromo-4-fluorophenyl)-4-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile (2.00 g, 6.51 mmol) and water (10 mL) was added conc. sulfuric acid (10 mL) at 0° C., and the mixture was stirred at 100° C. for 16 hr. After cooling to 0° C., the mixture was basified (pH 11) with 8N aqueous sodium hydroxide solution and washed with ethyl acetate. The aqueous layer was acidified (pH 4) with 5N hydrochloric acid and extracted with ethyl acetate. The organic layer was dried over anhydrous magnesium sulfate and filtered, and the solvent was evaporated under reduced pressure. The obtained residue was washed with diethyl ether and collected by filtration to give the title compound (1.12 g, 53%) as a white powder.

reactant | 1-(2-bromo-4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile | BrC1=C(C=CC(=C1)F)N1C(C(=CC=C1C)C#N)=O | C13H8BrFN2O
reactant | 1-(2-bromo-4-fluorophenyl)-4-methyl-2-oxo-1,2-dihydropyridine-3-carbonitrile | 6.51 mmol, 2.00 g | BrC1=C(C=CC(=C1)F)N1C(C(=C(C=C1)C)C#N)=O | C13H8BrFN2O
reactant | sulfuric acid | 10 mL | S(O)(O)(=O)=O | H2O4S
reactant | sodium hydroxide | 8N | [OH-].[Na+]
solvent | water | 10 mL | O | H2O
product | 1-(2-bromo-4-fluorophenyl)-6-methyl-2-oxo-1,2-dihydropyridine-3-carboxylic acid | 1.12 g, 53% | BrC1=C(C=CC(=C1)F)N1C(C(=CC=C1C)C(=O)O)=O | C13H9BrFNO3
